US08314233B2
Methyl 4,4-difluoro-3-oxo-2-(piperidin-1-ylmethylidene)butyrate (comparative example for 1.5, not according to the invention)
Methyl 3-piperidin-1-ylacrylate (99%, 26.6 g, 155 mmol) and triethylamine (17.3 g, 171 mmol) were initially charged in toluene (300 ml) and cooled to −30° C. At this temperature, difluoroacetyl chloride (20 g, 171 mmol) was introduced. The reaction mixture was stirred at −30° C. for 3 h, another 200 ml of toluene were added to keep the suspension stirrable and the mixture was then warmed to room temperature over a period of 1 hour. The reaction mixture was washed with deionized water (200 ml). After separation of the phases, the aqueous phase was extracted once with toluene (100 ml). The toluene phases were combined and washed with an aqueous saturated NaCl solution (100 ml), and the solvent was then removed under reduced pressure. This gave methyl 4,4-difluoro-3-oxo-2-(1-piperidin-1-ylmethylidene)butyrate as an orange oil (amount: 37.6 g; purity according to quant. NMR: 82.2%; yield: 80.3%).

reactant | Methyl 3-piperidin-1-ylacrylate | 155 mmol, 26.6 g | N1(CCCCC1)C=CC(=O)OC | C9H15NO2
reactant | triethylamine | 171 mmol, 17.3 g | C(C)N(CC)CC | C6H15N
reactant | difluoroacetyl chloride | 171 mmol, 20 g | FC(C(=O)Cl)F | C2HClF2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4,4-difluoro-3-oxo-2-(piperidin-1-ylmethylidene)butyrate | yield: 80.3% | FC(C(C(C(=O)OC)=CN1CCCCC1)=O)F | C11H15F2NO3
